US08242145B2
Step 1: {3-[4-(2,4-Dimethyl-thiazol-5-yl)-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 19, Step 3, using the following starting materials: {3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-phenyl}-acetic acid ethyl ester and 5-bromo-2,4-dimethyl-1,3-thiazole.

reactant | {3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C33H38BNO7
reactant | 5-bromo-2,4-dimethyl-1,3-thiazole | BrC1=C(N=C(S1)C)C | C5H6BrNS
product | {3-[4-(2,4-Dimethyl-thiazol-5-yl)-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C1=C(N=C(S1)C)C)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C32H32N2O5S
